US07893304B2
2,5-Dimethoxyphenol (287.1 mg) was dissolved in 30 ml of acetone, and to this solution, potassium carbonate and a solution of 14-bromotetradecan-1-ol (599.5 g) in 2 ml of acetone were added. The reaction mixture was stirred at reflux temperature (56° C.) for 24 hours, and then neutralized with saturated ammonium chloride solution. It was then extracted three times with diethyl ether. The organic layer was washed with saline solution and dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure. Purification of the residue by silica gel chromatography (eluting with dichloromethane) gave 14-(2,5-dimethoxyphenoxy)tetradecan-1-ol as white crystals at a 65% yield.

reactant | 2,5-Dimethoxyphenol | 287.1 mg | COC1=C(C=C(C=C1)OC)O | C8H10O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 14-bromotetradecan-1-ol | 599.5 g | BrCCCCCCCCCCCCCCO | C14H29BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 14-(2,5-dimethoxyphenoxy)tetradecan-1-ol | 65% yield | COC1=C(OCCCCCCCCCCCCCCO)C=C(C=C1)OC | C22H38O4
